US08431607B2
(S)-3-[6-(4-Chloro-phenoxy)-pyridin-3-yl]-4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one is prepared from (S)-4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one and 5-bromo-2-(4-chloro-phenoxy)-pyridine using the same conditions as example 4. 1H NMR (CDCl3, 400 MHz) δ 8.03 (dd, 1H), 7.88 (d, 1H), 7.62 (d, 1H), 7.45˜7.55 (m, 3H), 7.3 (d, 2H), 7.01 (d, 2H), 5.40 (dd, 1H), 4.85 (t, 1H), 4.24 (dd, 1H); HPLC-MS calculated for C21H15ClF3N3O2 (M+H+) 435.1, found 435.1.

reactant | (S)-4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one | FC(C=1C=C(C=CC1)[C@@H]1NC(OC1)=O)(F)F | C10H8F3NO2
reactant | 5-bromo-2-(4-chloro-phenoxy)-pyridine | BrC=1C=CC(=NC1)OC1=CC=C(C=C1)Cl | C11H7BrClNO
product | (S)-3-[6-(4-Chloro-phenoxy)-pyridin-3-yl]-4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one | ClC1=CC=C(OC2=CC=C(C=N2)N2C(OC[C@@H]2C2=CC(=CC=C2)C(F)(F)F)=O)C=C1 | C21H14ClF3N2O3
